US07265246B2
Prepare a mixture of 5-bromo-thiophene-3-carboxylic acid methyl ester (1.86 g, 8.41 mmol), phenylboronic acid (2.05 g, 16.83 mmol), and 1 M aqueous potassium carbonate (12.5 mL, 25.23 mmol) in 1,2-dimethoxyethane (70 mL) and purge with nitrogen for 20 minutes. Add Pd(PPh3)4 (485 mg, 0.42 mmol) and again purge the mixture with nitrogen for 10 minutes. Heat to 80° C. for 24 hours. Evaporate the solvent and redissolve the residue in ethyl acetate. Extract the aqueous phase with ethyl acetate (2×20 mL), wash the combined organic phases brine (40 mL), dry (magnesium sulfate), filter and concentrate. Perform flash chromatography on silica-gel eluting with 10:1 hexane/ethyl acetate to afford 947 mg of 5-phenylthiophene-3-carboxylic acid methyl ester as a white solid. MS: m/e=219 [MH+].

reactant | 5-bromo-thiophene-3-carboxylic acid methyl ester | 8.41 mmol, 1.86 g | COC(=O)C1=CSC(=C1)Br | C6H5BrO2S
reactant | phenylboronic acid | 16.83 mmol, 2.05 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 25.23 mmol, 1 M, 12.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.42 mmol, 485 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-phenylthiophene-3-carboxylic acid methyl ester | 947 mg | COC(=O)C1=CSC(=C1)C1=CC=CC=C1 | C12H10O2S
